Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Ceftin / Biaxin
 
Attending: ___.
 
Chief Complaint:
Obesity
 
Major Surgical or Invasive Procedure:
___: Laparoscopic Roux-en-Y Bypass

 
History of Present Illness:
Per Dr. ___

___ is a ___ female referred for evaluation
of gastric restrictive surgery in the treatment and management 
of
morbid obesity by her primary care physician ___ in
___.  ___ was seen and evaluated in our ___ clinic initially ___ and
___ with follow-up sessions on ___ and ___.  

___ has class II severe obesity with weight of 233.9 pounds as
of ___.  Her initial screen weight on ___ was 232.8 
pounds
with her highest weight in this time period as 236.1 pounds on
___.  Her height is 65.5 inches and her BMI is 39.2.  Her
previous weight loss efforts have included Weight Watchers, 
___, Nutrisystem, the Grapefruit Diet, self-initiated diets 
and
exercise.  She has not taken prescription weight loss 
medications
or used over-the-counter ephedra-containing appetite
suppressants/herbal supplements.  She has been able to lose up 
to
22 pounds but her weight loss attempts have failed to produce
lasting results.  She stated that her lowest adult weight was 
150
pounds at the age of ___ and her highest weight was 236.1 pounds
on ___ and she weighed 236 pounds ___ years ago when weighed at
the ___.  She stated that she has been
struggling with weight since the birth of her daughter and cites
as factors contributing to her excess weight large portions,
convenience eating, emotional eating, inconsistent meal pattern
and lack of exercise.  Her current physical activity is walking
her dog for 15 minutes ___ times a day at a slow pace.  She
denied history of eating disorders - no anorexia, bulimia,
diuretic or laxative abuse and she denied binge eating.  She 
does
have a diagnosis of depression and has been followed by a
therapist as well as a psychopharmacologist.  She was
hospitalized for depression in ___ and she is on several
psychotropic medications (buspirone, duloxetine).
 
Past Medical History:
Her medical history is noteworthy for:

1)  hypertension
2)  type 2 diabetes with hemoglobin A1c of 8.8% on ___ at 
    ___ (previous A1c was very high at 9.2%)
3)  hyperlipidemia with elevated triglycerides
4)  gastroesophageal reflux
5)  osteoarthritis of the hand joints
6)  history of paroxysmal supraventricular tachycardia
7)  carotid artery stenosis (moderate 50% blockage)
8)  chronic sinusitis
9)  history of hiatal hernia
10) hepatic steatosis by ultrasound
11) question of thyromegaly

Her surgical history is significant for:

1)  left breast biopsy that was benign
2)  cataract surgery
3)  tubal ligation
4)  tonsillectomy

 
Social History:
___
Family History:
Her family history is
noted for father deceased age ___ of ___; mother living age ___ and
history of atrial fibrillation, colon cancer and arthritis;
brother deceased age ___ of ___, diabetes and obesity; another
brother living age ___ with diabetes and carotid stenosis s/p
carotid endarterectomy; sister living age ___ with history of
breast CA and thyroid disease. 
 
Physical Exam:
Gen: Well appearing female in no acute distress
CV: Regular rate and rhythm, No M/T/H
Lungs: CTA b/l
Abdomen: Soft NT/ND, Incisions clean dry and intact
Extremeties: No edema, peripheral pulses strong and intact
 
Pertinent Results:
Labs after admission:
___ 04:15PM BLOOD Glucose-156* UreaN-16 Creat-0.9 Na-139 
K-4.8 Cl-106 HCO3-26 AnGap-12
___ 04:15PM BLOOD Calcium-8.7 Phos-4.0 Mg-2.0
___ 08:00AM BLOOD WBC-12.7* RBC-3.85* Hgb-11.8* Hct-36.2 
MCV-94 MCH-30.8 MCHC-32.7 RDW-12.9 Plt ___
___ 07:56AM BLOOD Type-ART FiO2-70 pO2-83* pCO2-57* 
pH-7.31* calTCO2-30 Base XS-0 Intubat-NOT INTUBA Comment-SIMPLE 
FAC
___ 09:02AM BLOOD ___ PTT-29.3 ___

Labs prior to discharge:
___ 07:30AM BLOOD WBC-10.1 RBC-3.63* Hgb-11.1* Hct-34.5* 
MCV-95 MCH-30.5 MCHC-32.1 RDW-13.0 Plt ___
___ 07:30AM BLOOD Glucose-194* UreaN-9 Creat-0.7 Na-139 
K-4.2 Cl-100 HCO3-27 AnGap-16
___ 07:30AM BLOOD Calcium-9.0 Phos-2.1* Mg-1.9

Imaging:
___ CTA chest, abd, pelvis: 
1. No pulmonary embolism. 
2. Ground-glass opacity in the lung apices with diffuse, 
predominantly 
central, ground-glass nodules in both lungs, concerning for 
early 
bronchopneumonia.  This patient requires a followup chest CT as 
an outpatient 
to demonstrate resolution of these nodules after treatment. 
3. Small bilateral pleural effusions and bibasilar atelectasis. 
4. No evidence of bowel obstruction or anastomotic leak. 

___  BAS/UGI AIR/SBFT:
Normal postoperative appearance of the stomach and 
gastroesophageal junction without obstruction or leak. 

 
Brief Hospital Course:
The patient presented to pre-op on ___. Pt was 
evaluated by anaesthesia and taken to the operating room for 
laparoscopic Roux-en-Y gastric bypass. There were no adverse 
events in the operating room; please see the operative note for 
details. Pt was extubated, taken to the PACU until stable. She 
was then transferred to ___ 9. On POD #1, Patient had an acute 
desaturation requiring 70 percent o2 via face mask and was 
transferred to TSICU. A chest X-ray showed low lung vol, 
moderate cardiomegaly, signs of mild fluid overload. A CT/CTA 
was done which ruled out pulmonary embolism but showed b/l 
pleural eff, apical findings concerning for bronchopneumonia. 
The patient was managed with a combination of O2 via facemask, 
chest ___, duonebs, and encouragement of Incentive spirometry. 
She soon reduced her O2 requirements to 2L via nasal cannula and 
was stable enough to be transferred out of the TSICU. Since that 
point she resumed the ___ bariatric gastric bypass pathway. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a PCA and then 
transitioned to oral Roxicet once tolerating a stage 2 diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable thereafter from a 
pulmonary standpoint; vital signs were routinely monitored. Good 
pulmonary toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO.  An upper GI 
study (POD1) were both negative for a leak, therefore, the diet 
was advanced sequentially to a Bariatric Stage 3 diet, which was 
well tolerated. Patient's intake and output were closely 
monitored.  JP output remained serosanguinous throughout 
admission; the drain was removed prior to discharge. Her insulin 
regimen was adjusted to reflect her lower postoperative blood 
glucose levels.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a stage 3 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 15 mg PO DAILY 
2. Duloxetine 30 mg PO DAILY 
3. Fexofenadine 180 mg PO DAILY 
4. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
5. Lisinopril 10 mg PO DAILY 
6. Metoprolol Tartrate 25 mg PO DAILY 
7. Rosuvastatin Calcium 20 mg PO DAILY 
8. TraZODone 50 mg PO HS 

 
Discharge Medications:
1. OxycoDONE-Acetaminophen Elixir ___ mL PO Q4H:PRN pain 
RX *oxycodone-acetaminophen [Roxicet] 5 mg-325 mg/5 mL ___ ml 
by mouth every four (4) hours Refills:*0
2. Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 50 mg/5 mL 100 mg by mouth twice a day 
Refills:*0
3. Ranitidine (Liquid) 150 mg PO BID 
RX *ranitidine HCl 15 mg/mL 150 mg by mouth twice a day 
Refills:*3
4. BusPIRone 15 mg PO DAILY 
5. Duloxetine 30 mg PO DAILY 
6. Fexofenadine 180 mg PO DAILY 
7. Lisinopril 10 mg PO DAILY 
8. Metoprolol Tartrate 25 mg PO DAILY 
9. Rosuvastatin Calcium 20 mg PO DAILY 
10. TraZODone 50 mg PO HS 
11. Enoxaparin Sodium 30 mg SC BID Duration: 28 Days 
Start: ___ - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 30 mg/0.3 mL 30 mg SC twice a day Disp #*56 
Syringe Refills:*0
12. NPH 12 Units Breakfast
NPH 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *NPH insulin human recomb [Humulin N KwikPen] 100 unit/mL (3 
mL) 12 or 8 units SC 12 Units before BKFT; 8 Units before BED; 
Disp #*60 Syringe Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance
diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You will be taking Zantac liquid ___ mg twice daily for one 
month. This medicine prevents gastric reflux.
4. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
5. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites

 
Followup Instructions:
___